US06492370B1
N-(2-Mercaptoethyl)phenethylamine Hydrochloride (Reference Compound No. 17-1)
Concentrated hydrochloric acid (5 ml) is added to a solution of N-acetyl-N-(2-mercaptoethyl)phenethylamine (500 mg) in acetic acid (5 ml) under a nitrogen atmosphere, and the mixture is refluxed for 24 hours. The reaction mixture is concentrated under reduced pressure, and then a 10% aqueous sodium carbonate solution is added to the concentrate. Weak basicity of the liquid is confirmed, and the whole is extracted with ethyl acetate. The organic layer is washed with saturated brine and dried over anhydrous sodium sulfate. A 4 N solution of hydrogen chloride in ethyl acetate is added to the organic layer, and the mixture is concentrated under reduced pressure. Ether is added to the concentrate, and the resulting precipitate is filtered off to give 244 mg (50%) of the titled compound (Reference compound No. 17-1) as crystals.

reactant | hydrochloric acid | 5 ml | Cl | ClH
reactant | N-acetyl-N-(2-mercaptoethyl)phenethylamine | 500 mg | C(C)(=O)N(CCS)CCC1=CC=CC=C1 | C12H17NOS
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | N-(2-Mercaptoethyl)phenethylamine Hydrochloride | 244 mg, 50% | Cl.SCCNCCC1=CC=CC=C1 | InChI=1S/C10H15NS.ClH/c12-9-8-11-7-6-10-4-2-1-3-5-10;/h1-5,11-12H,6-9H2;1H
